US07994176B2
Trifluoro-methanesulfonic acid 3,5-dichloro-4-[3-(4,4-difluoro-piperidin-1-yl)-2-oxo-pyrrolidin-1-ylmethyl]-phenyl ester
Treat a 0° C. solution of 1-(2,6-dichloro-4-hydroxy-benzyl)-3-(4,4-difluoro-piperidin-1-yl)-pyrrolidin-2-one (1.05 g, 2.78 mmol), pyridine (0.88 g, 11.1 mmol) and 4-dimethylaminopyridine (0.034 g, 0.287 mmol) in CH2Cl2 (20 mL) with trifluoromethanesulfonic anhydride (1.57 g, 5.56 mmol) and stir for 2 hours at 0° C. under N2. Dilute the reaction with CH2Cl2 and wash with water. Dry the organic layer with Na2SO4 and remove the solvent in vacuo to afford crude product. Purify on silica with 100% ethyl acetate to afford 1.20 g (85%) of the titled product. Rf=0.41 (100% ethyl acetate). ES MS (m/z): 511 (M+).

reactant | 1-(2,6-dichloro-4-hydroxy-benzyl)-3-(4,4-difluoro-piperidin-1-yl)-pyrrolidin-2-one | 2.78 mmol, 1.05 g | ClC1=C(CN2C(C(CC2)N2CCC(CC2)(F)F)=O)C(=CC(=C1)O)Cl | C16H18Cl2F2N2O2
reactant | pyridine | 11.1 mmol, 0.88 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 5.56 mmol, 1.57 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 0.287 mmol, 0.034 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3,5-dichloro-4-[3-(4,4-difluoro-piperidin-1-yl)-2-oxo-pyrrolidin-1-ylmethyl]-phenyl ester | 1.20 g, 85% | ClC=1C=C(C=C(C1CN1C(C(CC1)N1CCC(CC1)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C17H17Cl2F5N2O4S
